US05633248
5-Cyano-4,4-diphenylpentanol
To a stirred solution of ethyl 5-cyano-4,4-diphenylpentanoate (2 g) in tetrahydrofuran (25 ml) was added lithium aluminum hydride (0.37 g) in small portions under ice-cooling. After completion of addition, the mixture was further stirred for 30 minutes. While the reaction mixture was stirred under ice-cooling, water (0.9 ml), 15% aqueous sodium hydroxide (2.7 ml), and water (0.9 ml) were added in the order mentioned. The insoluble matter that separated out was filtered off and the filtrate was extracted with ethyl acetate and saturated aqueous sodium hydrogen carbonate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated to dryness. The group was purified by silica gel column chromatography to provide the title compound (1.3 g) as colorless syrup.

reactant | ethyl 5-cyano-4,4-diphenylpentanoate | 2 g | C(#N)CC(CCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H21NO2
reactant | lithium aluminum hydride | 0.37 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.9 ml | O | H2O
reactant | sodium hydroxide | 2.7 ml | [OH-].[Na+]
reactant | water | 0.9 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-Cyano-4,4-diphenylpentanol | 1.3 g | C(#N)CC(CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H19NO
